// characterization single-ended opamp 'op3' in XH35-3V3

simulator lang=spectre
global 0

include "./models/sky130.scs" section=tt

parameters vs=100m vi=0 vsup=1.8 vcm=0 vo=0 vid=0 vicm=0 \
           a0=1 cl=5p fin=1k i0=3u rl=100M               \
           Lcm1=0.4 Lcm2=0.4 Lcm3=0.4 Ld=0.4             \
           Wcm1=3.0 Wcm2=3.0 Wcm3=3.0 Wd=3.0             \
           Mcm11=1  Mcm212=4 Mcm31=1  Md=2               \
           Mcm12=2  Mcm222=2 Mcm32=2                     \
                    Mcm2x1=1                             \
           A=(Mcm11+Mcm12)*Wcm1*Lcm1+2*Md*Wd*Ld+         \
             (2*Mcm2x1+Mcm212+Mcm222)*Wcm2*Lcm2+         \
             (Mcm31+Mcm32)*Wcm3*Lcm3

subckt ideal_balun d c p n
    K0 (d 0 p c) transformer n1=2
    K1 (d 0 c n) transformer n1=2
ends ideal_balun

// Biasing
VSUPP (VDD CM)  vsource dc=vsup/2 type=dc
VSUPN (CM  VSS) vsource dc=vsup/2 type=dc
IREF  (VDD B)   isource dc=i0     type=dc
VCM   (CM  0)   vsource dc=0      type=dc

//DUT
DUT (B INP INN OUT VDD VSS) op

OUTIDEAL (OUT_IDEAL 0  INP 0) vcvs gain=1/a0

INPSW (INP ICLPULSE ICLSIN INPOL) switch position=1
INNSW (INN FBB             INNOL) switch position=1
OUTSW (OF  OFL  OUT)              switch position=1

IPRB0 (FBA FBB) iprobe
FBNET (FBA CM  OUT CM) vcvs gain=a0

VIPULSE (ICLPULSE CM) vsource type=pulse dc=vid val0=-vs/2  \
                      val1=vs/2 period=100u delay=5u rise=1n
VISIN   (ICLSIN   CM) vsource type=sine  ampl=a0 freq=fin
 
CL (OUT CM) capacitor c=cl
RL (OUT CM) resistor  r=rl

VO (OFI CM) vsource  dc=vo type=dc
L2 (OFI OF) dcfeed   l=1u
R2 (OFL CM) resistor r=1M

BALUN (IND INCM INPOL INNOL) ideal_balun

VID  (IND  CM) vsource type=dc dc=vid mag=1
VICM (INCM CM) vsource type=dc dc=vicm

// 'op3' in XH035-3V3 as subckt
subckt op B INP INN O VDD VSS
    // Output NMOS Current Mirror
    MNCM31  (Z  Z   VSS VSS) sky130_fd_pr__nfet_01v8 m=Mcm31 w=Wcm3 l=Lcm3 
    MNCM32  (O  Z   VSS VSS) sky130_fd_pr__nfet_01v8 m=Mcm32 w=Wcm3 l=Lcm3 

    // Differential Pair
    MND12   (X  INP CM  VSS) sky130_fd_pr__nfet_01v8 m=Md w=Wd l=Wd 
    MND11   (Y  INN CM  VSS) sky130_fd_pr__nfet_01v8 m=Md w=Wd l=Wd 

    // Biasing Current Mirror
    MNCM11  (B  B   VSS VSS) sky130_fd_pr__nfet_01v8 m=Mcm11 w=Wcm1 l=Lcm1 
    MNCM12  (CM B   VSS VSS) sky130_fd_pr__nfet_01v8 m=Mcm12 w=Wcm1 l=Lcm1 

    // Output PMOS Current Mirrors
    MPCM222 (Z  Y   VDD VDD) sky130_fd_pr__pfet_01v8 m=Mcm222 w=Wcm2 l=Lcm2 
    MPCM221 (Y  Y   VDD VDD) sky130_fd_pr__pfet_01v8 m=Mcm2x1 w=Wcm2 l=Lcm2 
    MPCM212 (O  X   VDD VDD) sky130_fd_pr__pfet_01v8 m=Mcm212 w=Wcm2 l=Lcm2 
    MPCM211 (X  X   VDD VDD) sky130_fd_pr__pfet_01v8 m=Mcm2x1 w=Wcm2 l=Lcm2 
ends op

simulatorOptions options reltol=100e-6 vabstol=1e-6 iabstol=1e-12 temp=27      \
                         tnom=27 homotopy=all gmin=1e-12 rforce=1              \
                         save=selected dc_pivot_check=yes scale=1u

save DUT.M*.m*:gm   DUT.M*.m*:gds   DUT.M*.m*:id    DUT.M*.m*:gmoverid  \
     DUT.M*.m*:fug  DUT.M*.m*:vdsat DUT.M*.m*:vgs   DUT.M*.m*:vds       \
     DUT.M*.m*:vbs  DUT.M*.m*:gmb   DUT.M*.m*:vth   DUT.M*.m*:self_gain \
     DUT.X          DUT.Y           DUT.Z           DUT.B               \
     DUT.CM         DUT:VDD         DUT:VSS         DUT:O               \
     OUT            OUT_IDEAL       INN             INP                 \
     VDD            VSS             OUT

fb1 alter dev=INPSW param=position value=1
fb2 alter dev=INNSW param=position value=1
fb3 alter dev=OUTSW param=position value=1
fb4 alter param=vid value=0
fb5 alter param=vo value=0
fb6 alter param=a0 value=1

dcop dc save=selected title="dcop"

dcmatch (OUT CM) dcmatch mth=0.9 method=statistics nsigma=1 \
  variations=mismatch where=rawfile prevoppoint=yes title="dcmatch"

stb stb start=1 stop=100G probe=IPRB0 localgnd=0 dec=50 title="stb"
tran tran stop=100u errpreset=conservative title="tran"

noise (OUT CM) noise start=1e-3 stop=1G iprobe=VIPULSE \
    separatenoise=no save=selected title="noise"

fb7 alter param=a0 value=0.1
dc1 dc param=vid start=-vsup*0.1 stop=vsup*0.1 lin=500 title="dc1"

ol1 alter dev=INNSW param=position value=2
ol2 alter dev=INPSW param=position value=3
ol3 alter dev=OUTSW param=position value=2

xf (OUT CM) xf  start=1e-3 stop=1G dec=50 title="xf" annotate=no
ac ac freq=1 param=vicm start=-vsup stop=vsup lin=1500 title="ac" annotate=no

ol41 alter param=vid value=vs/2 
ol42 alter param=vo value=-vsup/2
dc3 dc title="dc3"

ol51 alter param=vid value=-vs/2
ol52 alter param=vo value=vsup/2
dc4 dc title="dc4"
